US08114868B2
To a solution of 2-fluoroethanol (3.2 g, 50 mmol) and triethylamine (5.5 g, 55 mmol) in dichloromethane (60 mL) was added dropwise (CF3SO2)2O (15.5 g, 55 mmol) at −78° C. under N2. The mixture was stirred at 10˜20° C. for 1 h, and treated with water (100 mL). The organic layer was washed with satd aq NaHCO3 (100 mL) and brine (100 mL), dried, and concentrated to give 2-fluoroethyl trifluoromethanesulfonate (8 g, yield 82%).

reactant | 2-fluoroethanol | 50 mmol, 3.2 g | FCCO | C2H5FO
reactant | triethylamine | 55 mmol, 5.5 g | C(C)N(CC)CC | C6H15N
reactant | (CF3SO2)2O | 55 mmol, 15.5 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-fluoroethyl trifluoromethanesulfonate | 8 g, yield 82% | FC(S(=O)(=O)OCCF)(F)F | C3H4F4O3S
